US09062070B2
A suspension of 4-ethenyl-3-methylthiophene-2-carbonitrile (1.70 g, 11.4 mmol) in 30 mL of t-Bu-OH and 60 mL of water was added NBS (2.40 g, 13.7 mmol) portionwise. The mixture was stirred at 90° C. for 1 hour then cooled down to 10° C. Then a solution of NaOH (0.7 g in 10 mL of water, 17.5 mmol) was added dropwise and stirred for 15 minutes. The reaction mixture was extracted with EtOAc twice and concentrated. The residue was purified by silica column chromatography (petrol ether:EtOAc=20:1) to afford 3-methyl-4-(oxiran-2-yl)thiophene-2-carbonitrile.

reactant | 4-ethenyl-3-methylthiophene-2-carbonitrile | 11.4 mmol, 1.70 g | C(=C)C=1C(=C(SC1)C#N)C | C8H7NS
reactant | NBS | 13.7 mmol, 2.40 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaOH | 17.5 mmol, 10 mL, 0.7 g | [OH-].[Na+]
solvent | t-Bu-OH | 30 mL | C(C)(C)(C)O | C4H10O
solvent | water | 60 mL | O | H2O
product | 3-methyl-4-(oxiran-2-yl)thiophene-2-carbonitrile | CC1=C(SC=C1C1OC1)C#N | C8H7NOS
